US07253286B2
N-[4-(6-Carbamoyl-7-methoxy-4-quinolyl)oxy-2-methylphenyl]-N′-methylurea
[4-(6-Carbamoyl-7-methoxy-4-quinolyl)oxy-2-methylphenyl]carbamic acid phenyl ester (70 mg) was added to dimethylsulfoxide (0.8 ml), and then a methylamine-containing 2N tetrahydrofuran solution (0.4 ml) was added and the mixture was stirred for 5 minutes. Water and ethyl acetate were added to the reaction solution, and the precipitated crystals were filtered out to obtain the title compound (48 mg).

reactant | [4-(6-Carbamoyl-7-methoxy-4-quinolyl)oxy-2-methylphenyl]carbamic acid phenyl ester | 70 mg | C1(=CC=CC=C1)OC(NC1=C(C=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)C(N)=O)OC)C)=O | C25H21N3O5
reactant | dimethylsulfoxide | 0.8 ml | CS(=O)C | C2H6OS
reactant | methylamine | CN | CH5N
reactant | tetrahydrofuran | 2N, 0.4 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | N-[4-(6-Carbamoyl-7-methoxy-4-quinolyl)oxy-2-methylphenyl]-N′-methylurea | 48 mg | C(N)(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NC)C | C20H20N4O4
